US08735586B2
1-(2-Chloro-phenyl)-2-((E)-styryl)-1H-benzimidazole
The title compound was prepared with the analogous procedure described in example 7 (one pot reaction) using 1-iodo-2-nitrobenzene (124.5 mg, 0.5 mmol) and N-(2-chloro-phenyl)-3-phenylacrylamide (154 mg, 0.6 mmol) as starting materials to yield the title compound as a solid (35 mg, 21%). 1H NMR (DMSO) δ 6.73 (d, 1 H), 7.03 (d, 1H), 7.31 (t, 1H), 7.39 (m, 4H), 7.58 (d, 2 H), 7.70 (m, 1H), 7.75 (m, 1H), 7.79 (m, 2H), 7.88 (dd, 2H). [M+H+]: 331.08.

reactant | 1-iodo-2-nitrobenzene | 0.5 mmol, 124.5 mg | IC1=C(C=CC=C1)[N+](=O)[O-] | C6H4INO2
reactant | N-(2-chloro-phenyl)-3-phenylacrylamide | 0.6 mmol, 154 mg | ClC1=C(C=CC=C1)NC(C=CC1=CC=CC=C1)=O | C15H12ClNO
product | 1-(2-Chloro-phenyl)-2-((E)-styryl)-1H-benzimidazole | 35 mg, 21% | ClC1=C(C=CC=C1)N1C(=NC2=C1C=CC=C2)\C=C\C2=CC=CC=C2 | C21H15ClN2
